** sch_path: /foss/designs/a_zonetic2026/XSCHEM/OPAM/OPAM.sch
.subckt OPAM VDD INN OUT INP VSS
*.PININFO INN:I INP:I VDD:B VSS:B OUT:B
M11 net5 net1 VDD VDD pfet_06v0 L=1.0u W=10.0u nf=1
M12 net11 net6 net5 VDD pfet_06v0 L=1.0u W=10.0u nf=1
M13 net23 net1 VDD VDD pfet_06v0 L=1.0u W=10.0u nf=1
M14 net11 net6 net23 VDD pfet_06v0 L=1.0u W=10.0u nf=1
M15 net9 INP net11 VDD pfet_06v0 L=1.0u W=10.0u nf=1
M16 net8 INN net11 VDD pfet_06v0 L=1.0u W=10.0u nf=1
M17 net12 net4 net2 VSS nfet_06v0 L=1.0u W=5.0u nf=1
M18 net2 net3 VSS VSS nfet_06v0 L=1.0u W=5.0u nf=1
M19 net12 net4 net24 VSS nfet_06v0 L=1.0u W=5.0u nf=1
M20 net24 net3 VSS VSS nfet_06v0 L=1.0u W=5.0u nf=1
M21 net10 INP net12 VSS nfet_06v0 L=1.0u W=5u nf=1
M22 net7 INN net12 VSS nfet_06v0 L=1.0u W=5u nf=1
M29 net13 net6 net7 VDD pfet_06v0 L=1.0u W=5u nf=1
M30 net16 net6 net10 VDD pfet_06v0 L=1.0u W=5u nf=1
M31 net7 net13 VDD VDD pfet_06v0 L=1.0u W=5u nf=1
M35 net10 net13 VDD VDD pfet_06v0 L=1.0u W=5u nf=1
M32 net14 net25 net13 VDD pfet_06v0 L=1.0u W=5.0u nf=1
M33 net26 net25 net16 VDD pfet_06v0 L=1.0u W=5.0u nf=1
M23 net14 net4 net8 VSS nfet_06v0 L=1.0u W=2.5u nf=1
M24 net26 net4 net9 VSS nfet_06v0 L=1.0u W=2.5u nf=1
M25 net8 net14 VSS VSS nfet_06v0 L=1.0u W=2.5u nf=1
M26 net9 net14 VSS VSS nfet_06v0 L=1.0u W=2.5u nf=1
M27 net13 net15 net14 VSS nfet_06v0 L=1.0u W=2.5u nf=1
M28 net16 net15 net26 VSS nfet_06v0 L=1.0u W=2.5u nf=1
M34 net17 net18 VDD VDD pfet_06v0 L=1.0u W=10.0u nf=1
M36 net18 net6 net17 VDD pfet_06v0 L=1.0u W=10.0u nf=1
M37 net25 net25 net18 VDD pfet_06v0 L=1.0u W=10.0u nf=1
M38 net25 net4 net19 VSS nfet_06v0 L=1.0u W=5.0u nf=1
M39 net19 net3 VSS VSS nfet_06v0 L=1.0u W=5.0u nf=1
M45 net20 net1 VDD VDD pfet_06v0 L=1.0u W=10.0u nf=1
M46 net15 net6 net20 VDD pfet_06v0 L=1.0u W=10.0u nf=1
M40 net15 net15 net22 VSS nfet_06v0 L=1.0u W=5.0u nf=1
M41 net22 net4 net21 VSS nfet_06v0 L=1.0u W=5.0u nf=1
M42 net21 net22 VSS VSS nfet_06v0 L=1.0u W=5.0u nf=1
M43 OUT net16 VDD VDD pfet_06v0 L=20.0u W=0.7u nf=1
M44 OUT net26 VSS VSS nfet_06v0 L=1.0u W=1.0u nf=1
XC3 net10 OUT cap_mim_2f0fF c_width=20e-6 c_length=10e-6
XC1 OUT net9 cap_mim_2f0fF c_width=20e-6 c_length=10e-6
M4 net29 net1 VDD VDD pfet_06v0 L=1.0u W=10.0u nf=1
M5 net4 net6 net29 VDD pfet_06v0 L=1.0u W=10.0u nf=1
M6 net4 net4 VSS VSS nfet_06v0 L=1.0u W=1.0u nf=1
M7 net28 net1 VDD VDD pfet_06v0 L=1.0u W=10.0u nf=1
M8 net3 net6 net28 VDD pfet_06v0 L=1.0u W=10.0u nf=1
M9 net3 net4 net27 VSS nfet_06v0 L=1.0u W=5.0u nf=1
M10 net27 net3 VSS VSS nfet_06v0 L=1.0u W=5.0u nf=1
M1 net6 net6 VDD VDD pfet_06v0 L=1.0u W=2u nf=1
M2 net30 net1 VDD VDD pfet_06v0 L=1.0u W=10.0u nf=1
M3 net1 net6 net30 VDD pfet_06v0 L=1.0u W=10.0u nf=1
M47 net31 net6 VSS VSS nfet_06v0 L=1.0u W=1.0u nf=1
M48 net32 net6 VSS VSS nfet_06v0 L=1.0u W=1.0u nf=1
M49 net6 net6 net32 VSS nfet_06v0 L=1.0u W=1.0u nf=1
M50 net1 net6 net31 VSS nfet_06v0 L=1.0u W=1.0u nf=1
.ends
